US06982348B2
To a solution of 5-(6-chloro-2-pyridyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (1.08 g, 1.40 mmol, (4RS,5RS) form: (4RS,5SR) form=3:2) in acetonitrile (10 ml) were added di-t-butyl dicarbonate (793 mg, 3.63 mmol) and dimethylaminopyridine (37 mg, 0.30 mmol), and the mixture was stirred at room temperature for 30 min. The reaction solution was concentrated, diluted with water (20 ml), and extracted with ethyl acetate (20 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was eluted with hexane:ethyl acetate=4:1 by silica gel column chromatography and recrystallized from diisopropyl ether-hexane to give 1,1-dimethylethyl(4RS,5SR)-5-(6-chloro-2-pyridyl)-2-oxo-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate (300 mg, 22%).

reactant | 5-(6-chloro-2-pyridyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 1.40 mmol, 1.08 g | ClC1=CC=CC(=N1)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C16H12ClF3N2O2
reactant | di-t-butyl dicarbonate | 3.63 mmol, 793 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.30 mmol, 37 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1,1-dimethylethyl(4RS,5SR)-5-(6-chloro-2-pyridyl)-2-oxo-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidine-3-carboxylate | 300 mg, 22% | ClC1=CC=CC(=N1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C(F)(F)F | C21H20ClF3N2O4
